Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever

 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
Mr ___ is a ___ male presents with 1 day general 
malaise, fever, altered mental status 
 
Per patient notes one day of chills, sore throat, dry cough and 
intermittent headache. He was later brought in by ambulance 
after being noted by his roommates to be altered. While being 
assessed by EMS patient was tachycardic to 160. Upon arrival to 
ED patient was disoriented to time and place. VS: 102.7 136 
117/62 18 100% 4L. He underwent LP due to concern for 
meningitis. LP revealed protein 24 glucose 61. UA negative. CXR 
wnl. Urine/blood tox screen negative. Patient received 4L IVF, 
CTX 2gm, 4mg IV ativan pre-treatment for LP. VS prior to 
transfer: 99.9 119 94/44 18 98%. 
 
On arrival to the floor, patient is sleeping but arousable; 
oriented x3 but intermittently confused. Reports mild HA, sore 
throat, fever, dry cough, sweats, chills. No recent travel. No 
known sick contacts. No recent sexual activity. No genital 
ulcers/lesions. No skin rashes. Lives with 4roommates. Denies 
recent exposures, ingestions. Last EtOH use on ___ night. 

 
Past Medical History:
None
 
Social History:
___
Family History:
Father: HTN, pre-DM
No psych history

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 98.2  110/52  113regular  18  97%RA
GENERAL: Sleeping but arousable, NAD, mildly diaphoretic  
HEENT: NC/AT, PERRLA, EOMI, no nystagmus, sclerae anicteric, MMM 
 
NECK: supple, no appreciable LAD  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: tacycardiac, no MRG, nl S1-S2  
ABDOMEN: thin, NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
SKIN: no obvious rashes, petechiae
EXTREMITIES: WWP, no edema bilaterally in lower extremities, no 
erythema, induration, or evidence of injury or infection  
NEURO: A&Ox3, CNs II-XII grossly intact, muscle strength ___ 
throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, no clonus, no rigidity, unsteady gait.   
 
DISCHARGE PHYSICAL EXAM:
VS: 98.3, 112/70, 91, 18, 100%RA
GENERAL: awake, NAD  
HEENT: NC/AT, sclerae anicteric, MMM, red/swollen bilat tonsils 
without evidence of exudate
NECK: supple, no neck stiffness 
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: thin, NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
SKIN: no obvious rashes, petechiae
EXTREMITIES: WWP, no edema bilaterally in lower extremities, no 
erythema, induration, or evidence of injury or infection  
NEURO: A&Ox3, CNs II-XII grossly intact, gait normal, no focal 
deficits

 
Pertinent Results:
ADMISSION LABS:

___ 12:00AM   GLUCOSE-104* UREA N-14 CREAT-0.8 SODIUM-136 
POTASSIUM-3.4 CHLORIDE-99 TOTAL CO2-20* ANION GAP-20
___ 12:12AM   LACTATE-2.1*
___ 12:00AM   ALT(SGPT)-25 AST(SGOT)-26 LD(LDH)-187 
CK(CPK)-89 ALK PHOS-78 TOT BILI-1.0
___ 12:00AM   CALCIUM-10.4* PHOSPHATE-0.8* MAGNESIUM-1.7
___ 12:00AM   TSH-2.3
___ 12:00AM   WBC-13.6* RBC-5.02 HGB-15.2 HCT-43.8 MCV-87 
MCH-30.2 MCHC-34.7 RDW-12.3
___ 12:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG

MICRO:

- ___ 1:17 am CSF;SPINAL FLUID      Source: LP. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

- ___ 1:15 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

- ___ 1:15 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   LYME SEROLOGY (Final ___: 
      NO ANTIBODY TO B. BURGDORFERI DETECTED BY EIA. 
      Reference Range:  No antibody detected. 
      Negative results do not rule out B. burgdorferi infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody.  Patients with clinical 
history and/or
      symptoms suggestive of lyme disease should be retested in 
___ weeks. 

-  ___ 5:22 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture for further 
information. 

- Herpes Simplex Virus PCR
   Specimen Source                   CSF
   Result                            Negative         

- Test  (Serum)               Result              Reference 
Range/Units
HSV 1 IGG TYPE SPECIFIC AB    3.61  H             index
HSV 2 IGG TYPE SPECIFIC AB    <0.90               index
 
Index                  Interpretation
<0.90                  Negative
0.90-1.10              Equivocal
>1.10                  Positive

___ 01:15PM BLOOD HIV Ab-NEGATIVE
 
Brief Hospital Course:
___ male presents with 1 day general malaise, fever; found to 
be altered, febrile and tachycardic in the ED. 

# Altered Mental Status: Was noted to have confusion when at 
home with roommates, who called EMS given their concern. There 
was no history of ingestion, and tox screen was negtaive. Blood 
culture showed no growth, and influenza swab was negative as 
well. He was noted to be febrile, raising concern for possible 
meningitis/encephalitis. LP did not show any evidence of 
infection, and  culture results were negative. All other 
infectious processes which were tested (HIV, RPR, lyme, CSF HSV) 
were also negative, but arborovirus is still pending at this 
time. His mental status returned to baseline shortly after he 
was admitted. 

# Throat Pain: Complained of throat pain with swallowing. Noted 
to have erythematous, slightly enlarged tonsils without evidence 
of exudates. Swab was negative for Strep. He was treated with 7 
days of augmentin empirically. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever, pain 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Fever, acute encephalopathy, pharyngitis

Secondary: None

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___ 
___. You were admitted for evaluation of your acute 
confusion and fever. While you were here you had a lumbar 
puncture and blood work to check for evidence of an infection. 
You were treated with antibiotics, and your symptoms improved. 
None of the tests which were run show any evidence of infection 
around your brain or in your blood. The antibiotics were 
stopped, and you continued to do well. The exact cause of your 
acute confusion and fever is unknown. 
 
Followup Instructions:
___